US09102616B2
(13) Synthesis of N3,N4-di(naphthalen-2-yl)-N3,N4-diphenyl-1H-pyrrole-3,4-diamine
15.05 g of a product (yield: 60%) was obtained in the same manner as described in the synthesis method of intermediate 2-1 except that 3,4-dibromo-1H-pyrrole (11.24 g, 50 mmol), N-phenylnaphthalen-2-amine (21.93 g, 100 mmol), Pd2(dba)3 (2.75 g, 3 mmol), PPh3 (2.62 g, 10 mmol), NaOt-Bu (28.83 g, 300 mmol), and toluene (525 mL) were used.

reactant | 3,4-dibromo-1H-pyrrole | 50 mmol, 11.24 g | BrC1=CNC=C1Br | C4H3Br2N
reactant | N-phenylnaphthalen-2-amine | 100 mmol, 21.93 g | C1(=CC=CC=C1)NC1=CC2=CC=CC=C2C=C1 | C16H13N
reactant | PPh3 | 10 mmol, 2.62 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NaOt-Bu | 300 mmol, 28.83 g | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 3 mmol, 2.75 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 525 mL | C1(=CC=CC=C1)C | C7H8
product | N3,N4-di(naphthalen-2-yl)-N3,N4-diphenyl-1H-pyrrole-3,4-diamine | C1=C(C=CC2=CC=CC=C12)N(C1=CNC=C1N(C1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C36H27N3
